US07700583B2
To a solution of (4-amino-phenyl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone (3.0 g, 11.01 mmol) and TEA (3.1 ml, 22.03 mmol) in dry THF (40 ml) was added dropwise acryloyl chloride (1.07 ml, 13.22 mmol). The mixture was stirred for 45 min., the volatiles evaporated and to the residue added water 25 (ml). The aqueous phase was extracted with EtOAc (2×25 ml) and the combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo. The residue was purified on column chromatography (silicagel) using EtOAc-Heptane 1:1 as eluent. Pure fractions were collected, the solvent evaporated in vacuo affording 1.7 g (47%) of N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-acrylamide as an oil.

reactant | (4-amino-phenyl)-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]oct-6-yl)-methanone | 11.01 mmol, 3.0 g | NC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C17H24N2O
reactant | acryloyl chloride | 13.22 mmol, 1.07 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-acrylamide | 1.7 g, 47% | CC12CC(CC(N(C1)C(=O)C1=CC=C(C=C1)NC(C=C)=O)C2)(C)C | C20H26N2O2
